US08629163B2
Preparation of 5,5′,5″,5′″-(1,2,4,5-benzentetrayl)-tetrakis(4-pentyn-ol)
To a degassed solution of 1,2,4,5-tetraiodobenzene (5.81 g, 0.01 mol) in DMF-Et3N (100 mL, 1:1) were added Pd(PPh3)2Cl2 (350 mg. 0.5 mmol), CuI (200 mg, 1.2 mmol), and 4-pentyn-1-ol (4.2 g, 0.05 mol) was added drop-wise. The mixture was stirred under N2 at room temperature for 24 h. The solution was poured into water (400 mL). The mixture was extracted with CH2Cl2 (3×200 mL). The combined organic phases were washed with 5% HCl and brine, dried over Na2SO4, and concentrated under vacuum. The residue was purified by silica gel column chromatography using CH2Cl2-MeOH (10:1, v/v) as eluent to afford tetramer (3.34 g, 82%): 1H NMR (300 MHz, CD3Cl+CO3OD δ ppm), 7.30 (s, 2H), 3.72 (t, J=6.3 Hz, 8H), 2.52 (t, J=7.2 Hz, 8H), 1.80 (p, J=6.6 Hz, 8H) ppm.

reactant | 1,2,4,5-tetraiodobenzene | 0.01 mol, 5.81 g | IC1=C(C=C(C(=C1)I)I)I | C6H2I4
reactant | 4-pentyn-1-ol | 0.05 mol, 4.2 g | C(CCC#C)O | C5H8O
reactant | water | 400 mL | O | H2O
solvent | DMF Et3N | 100 mL | CN(C)C=O.CCN(CC)CC
catalyst | Pd(PPh3)2Cl2 | 0.5 mmol, 350 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 1.2 mmol, 200 mg | [Cu]I
product | 5,5′,5″,5′″-(1,2,4,5-benzentetrayl)-tetrakis(4-pentyn-ol) | C1(=C(C=C(C(=C1)C#CCCCO)C#CCCCO)C#CCCCO)C#CCCCO | C26H30O4
